US08242153B2
AD-MIX-beta (3.25 g) was stirred in t-BuOH/H2O 1:1 (24 ml) for 15 min an cooled to 0° C. To this solution was added 1-(1-allyloxy-1-methyl-ethyl)-4-fluoro-benzene (0.50 g). The mixture was stirred for 16 h at 0° C. The reaction mixture was treated with sodium sulfite and stirred for 30 min. The solution was extracted with ethylacetate twice. The combined organic layers were dried (MgSO4) and evaporated. The product was purified by column chromatography (SiO2; heptane/EtOAc 2:1) to give (S)-3-[1-(4-fluoro-phenyl)-1-methyl-ethoxy]-propane-1,2-diol (0.47 g, 80%) as a light yellow liquid. MS (EI): 213.0 ([M-CH3]), 137.0 (F—C6H4—C(CH3)2+)

reactant | AD-MIX-beta | 3.25 g | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | 1-(1-allyloxy-1-methyl-ethyl)-4-fluoro-benzene | 0.50 g | C(C=C)OC(C)(C)C1=CC=C(C=C1)F | C12H15FO
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | t-BuOH H2O | 24 ml | CC(C)(C)O.O
product | (S)-3-[1-(4-fluoro-phenyl)-1-methyl-ethoxy]-propane-1,2-diol | 0.47 g, 80% | FC1=CC=C(C=C1)C(C)(OC[C@H](CO)O)C | C12H17FO3
